US07501518B2
To a stirring solution of N-(4-hydroxymethyl-benzyl)-2-nitro-N-pyridin-2-ylmethyl-benzenesulfonamide (Bridger, et al., U.S. Ser. No. 09/111,895) (0.2096 g, 0.51 mmol) in CH2Cl2 (5 mL) at 0° C. under Ar, was added Et3N (0.14 mL, 1.02 mmol) and MsCl (0.05 mL, 0.66 mmol). The mixture was stirred at 0° C. for 2 hours, then stirred at room temperature for 3 hours. Additional Et3N (0.30 mL, 2.16 mmol) and MsCl (0.10 mL, 1.32 mmol) were added, and stirred for 18 hours. Saturated NaHCO3 (10 mL) was added and extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated to provide 0.2383 g (95%) of methanesulfonic acid 4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl ester as a yellow oil. 1H NMR (CDCl3) δ 3.14 (s, 3H), 4.51 (s, 2H), 4.60 (s, 4H), 7.02-7.24 (m, 6H), 7.54-7.57 (m, 2H), 7.66 (d, 2H, J=3.0 Hz), 7.94 (d, 1H, J=9.0 Hz), 8.41-8.43 (m, 1H).

reactant | N-(4-hydroxymethyl-benzyl)-2-nitro-N-pyridin-2-ylmethyl-benzenesulfonamide | OCC1=CC=C(CN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])CC2=NC=CC=C2)C=C1 | C20H19N3O5S
reactant | Et3N | 1.02 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.66 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 2.16 mmol, 0.30 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 1.32 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 4-{[(2-nitro-benzenesulfonyl)-pyridin-2-ylmethyl-amino]-methyl}-benzyl ester | 0.2383 g, 95% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=NC=CC=C1)CC1=CC=C(COS(=O)(=O)C)C=C1 | C21H21N3O7S2
